US04098888
To a solution of 10 g of ethyl α-methoxyimino-α-(2-aminothiazol-4-yl)acetate in 100 ml of dimethylacetamide is dropwise added 5.91 g of chloroacetyl chloride under ice-cooling. After the stirring for 1 hour at room temperature, the reaction mixture is poured into ice-water and the resultant solution is extracted with ethyl acetate. The organic layer is washed and dried, followed by the distillation of solvent to give 12.66 g of ethyl α-methoxyimino-α-[2-(chloroacetamido)thiazol-4-yl]acetate as a crystal. Melting point: 81°-82° C.

reactant | ethyl α-methoxyimino-α-(2-aminothiazol-4-yl)acetate | 10 g | CON=C(C(=O)OCC)C=1N=C(SC1)N | C8H11N3O3S
reactant | chloroacetyl chloride | 5.91 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | ethyl α-methoxyimino-α-[2-(chloroacetamido)thiazol-4-yl]acetate | 12.66 g | CON=C(C(=O)OCC)C=1N=C(SC1)NC(CCl)=O | C10H12ClN3O4S
